US03997530
A mixture of 13.7 g. of methyl isonicotinate, 16.8 g. of cyclopropylmethyl ketone and 6 g. of sodium methoxide in 150 ml. of benzene is heated under reflux for 8 hours. The mixture is filtered and the collected solid is dissolved in water. The aqueous mixture is made weakly acidic with dilute hydrochloric acid and extracted with ether. The ethereal solution is dried over magnesium sulfate and concentrated under reduced pressure to give 1-cyclopropyl-3-(4-pyridyl)-1,3-propanedione as a mobile, yellow liquid, infra-red spectrum 6.15u (CHCl3, β-diketone.

reactant | methyl isonicotinate | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
reactant | cyclopropylmethyl ketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-cyclopropyl-3-(4-pyridyl)-1,3-propanedione | C1(CC1)C(CC(=O)C1=CC=NC=C1)=O | C11H11NO2
